US07829580B2
(d) (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(furan-2-yl)methylidene]piperidin-4-ol
To a solution of (E)-3-[(furan-2-yl)methylidene]piperidin-4-ol hydrogen acetate (2.81 g) and 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone (2.71 g) in N,N-dimethylformamide (60 ml) was added triethylamine (1.22 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:7 to 1:1) as the eluent to afford the title compound (2.30 g, yield: 74%) as a pale yellow amorphous solid.

reactant | (E)-3-[(furan-2-yl)methylidene]piperidin-4-ol hydrogen acetate | 2.81 g | C(C)(=O)O.O1C(=CC=C1)\C=C\1/CNCCC1O
reactant | 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone | 2.71 g | BrC(C(=O)C1CC1)C1=C(C=CC=C1)F | C11H10BrFO
reactant | triethylamine | 1.22 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(furan-2-yl)methylidene]piperidin-4-ol | 2.30 g, yield: 74% | C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)O)=C/C=1OC=CC1)=O | C21H22FNO3
